US08808879B2
2-(2-bromophenyl)-1-phenyl-1H-benzo[d]imidazole (6)
To a solution of 2-bromo-N-(2-(phenylamino)phenyl)benzamide (10.7 g, 29 mmol) in anhydrous 1,4-dioxane (˜100 mL), was added POCl3 (6.92 g, 45 mmol) slowly. The whole was heated to about 100° C. under argon overnight. After cooling the mixture to room temperature, the mixture was poured into ice (˜150 g), and then neutralized with NaHCO3. After filtration, the solid was collected then dissolved in dichloromethane (˜250 mL), which was washed with water (˜250 mL). The aqueous solution was extracted with dichloromethane (˜100 mL×2). The organic phase was combined and dried over Na2SO4, concentrated, and recrystallized in dichloromethane/hexanes to give a light grey solid (6.68 g, 66% yield).

reactant | 2-bromo-N-(2-(phenylamino)phenyl)benzamide | 29 mmol, 10.7 g | BrC1=C(C(=O)NC2=C(C=CC=C2)NC2=CC=CC=C2)C=CC=C1 | C19H15BrN2O
reactant | POCl3 | 45 mmol, 6.92 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | ˜100 mL | O1CCOCC1 | C4H8O2
product | 2-(2-bromophenyl)-1-phenyl-1H-benzo[d]imidazole | 6.68 g, 66% yield | BrC1=C(C=CC=C1)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C19H13BrN2
